US06156767
2-[3-(2-tert-Butoxycarbonylaminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methyl-propionic acid ethyl ester
To a solution of 2-[3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid ethyl ester (1.13 g in 20 mL methylene chloride) at 0° C. was added triethylamine (0.84 mL) and a solution of 982 mg di-tert-butyl dicarbonate in 5 mL methylene chloride and the resulting solution stirred vigourously at 0° C. After 2 hours, the reaction was quenched by the addition of excess saturated aqueous sodium bicarbonate and the mixture extracted with methylene chloride. The organic portion was dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (hexane:ethyl acetate, 85:15) to give the title compound (1.28 g).

reactant | 2-[3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid ethyl ester | 20 mL, 1.13 g | C(C)OC(C(C)(C)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCN)=O | C24H30N2O2
reactant | triethylamine | 0.84 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 982 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-[3-(2-tert-Butoxycarbonylaminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methyl-propionic acid ethyl ester | 1.28 g | C(C)OC(C(C)(C)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCNC(=O)OC(C)(C)C)=O | C29H38N2O4
